US08865752B2
A mixture of methyl-4-((6-(2-(dimethylamino)-1-(1H-imidazol-1-yl)butyl)-benzo[d]thiazol-2-yl)amino)benzoate (46 mg, 0.10 mmol) and lithium hydroxide monohydrate (21 mg, 0.51 mmol) in 4 mL of dioxane and 2 mL of water was heated together with stirring at 50° C. for 4 hr. The mixture was concentrated in vacuo and the residue dissolved in about 2 mL of water. The solution was neutralized with 1N HCl then concentrated again in vacuo. The residue was purified by PTLC using two, 2 mm silica plates eluting with 20% MeOH/DCM to give 4-((6-(2-(Dimethylamino)-1-(1H-imidazol-1-yl)butyl)benzo[d]thiazol-2-yl)amino)benzoic acid. MS (ESI+) m/z 436.22 [M+H]+

reactant | methyl-4-((6-(2-(dimethylamino)-1-(1H-imidazol-1-yl)butyl)-benzo[d]thiazol-2-yl)amino)benzoate | 0.10 mmol, 46 mg | COC(C1=CC=C(C=C1)NC=1SC2=C(N1)C=CC(=C2)C(C(CC)N(C)C)N2C=NC=C2)=O | C24H27N5O2S
reactant | lithium hydroxide monohydrate | 0.51 mmol, 21 mg | O.[OH-].[Li+]
solvent | dioxane | 4 mL | O1CCOCC1 | C4H8O2
solvent | water | 2 mL | O | H2O
product | 4-((6-(2-(Dimethylamino)-1-(1H-imidazol-1-yl)butyl)benzo[d]thiazol-2-yl)amino)benzoic acid | CN(C(C(N1C=NC=C1)C1=CC2=C(N=C(S2)NC2=CC=C(C(=O)O)C=C2)C=C1)CC)C | C23H25N5O2S
